* Coriolis Structural SPICE Driver
* Generated on Apr 13, 2025, 01:28
* Cell/Subckt "expmob1_r".
* 
* INTERF vss
* INTERF vdd
* INTERF outputs[9]
* INTERF outputs[8]
* INTERF outputs[7]
* INTERF outputs[6]
* INTERF outputs[5]
* INTERF outputs[4]
* INTERF outputs[3]
* INTERF outputs[2]
* INTERF outputs[15]
* INTERF outputs[14]
* INTERF outputs[13]
* INTERF outputs[12]
* INTERF outputs[11]
* INTERF outputs[10]
* INTERF outputs[1]
* INTERF inputs[9]
* INTERF inputs[8]
* INTERF inputs[7]
* INTERF inputs[6]
* INTERF inputs[5]
* INTERF inputs[4]
* INTERF inputs[3]
* INTERF inputs[2]
* INTERF inputs[15]
* INTERF inputs[14]
* INTERF inputs[13]
* INTERF inputs[12]
* INTERF inputs[11]
* INTERF inputs[10]
* INTERF inputs[1]
* INTERF inputs[0]

* Terminal models (aka standard cells) used througout all the hierarchy.
.include decap_w0.spi
.include nexor2_x0.spi
.include tie.spi
.include xor2_x0.spi
.include inv_x0.spi

* Non-terminal models (part of the user's design hierarchy).

.subckt expmob1_r 0 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32
* NET     0 = vss
* NET     1 = vdd
* NET     2 = outputs[9]
* NET     3 = outputs[8]
* NET     4 = outputs[7]
* NET     5 = outputs[6]
* NET     6 = outputs[5]
* NET     7 = outputs[4]
* NET     8 = outputs[3]
* NET     9 = outputs[2]
* NET    10 = outputs[15]
* NET    11 = outputs[14]
* NET    12 = outputs[13]
* NET    13 = outputs[12]
* NET    14 = outputs[11]
* NET    15 = outputs[10]
* NET    16 = outputs[1]
* NET    17 = inputs[9]
* NET    18 = inputs[8]
* NET    19 = inputs[7]
* NET    20 = inputs[6]
* NET    21 = inputs[5]
* NET    22 = inputs[4]
* NET    23 = inputs[3]
* NET    24 = inputs[2]
* NET    25 = inputs[15]
* NET    26 = inputs[14]
* NET    27 = inputs[13]
* NET    28 = inputs[12]
* NET    29 = inputs[11]
* NET    30 = inputs[10]
* NET    31 = inputs[1]
* NET    32 = inputs[0]
* NET    33 = genblk1_2_si_outputs_7
* NET    34 = genblk1_2_si_outputs_3
* NET    35 = genblk1_2_si_outputs_15
* NET    36 = genblk1_2_si_outputs_11
* NET    37 = genblk1_1_si_outputs_7
* NET    38 = genblk1_1_si_outputs_6
* NET    39 = genblk1_1_si_outputs_5
* NET    40 = genblk1_1_si_outputs_15
* NET    41 = genblk1_1_si_outputs_14
* NET    42 = genblk1_1_si_outputs_13
* NET    43 = genblk1_1_si_inputs_9
* NET    44 = genblk1_1_si_inputs_15
* NET    45 = genblk1_1_si_inputs_14
* NET    46 = genblk1_1_si_inputs_13
* NET    47 = genblk1_1_si_inputs_12
* NET    48 = genblk1_1_si_inputs_11
* NET    49 = genblk1_1_si_inputs_10
* NET    50 = blockagenet
* NET    51 = abc_203_new_n68
* NET    52 = abc_203_new_n67
* NET    53 = abc_203_new_n66
* NET    54 = abc_203_new_n64
* NET    55 = abc_203_new_n63
* NET    56 = abc_203_new_n61
* NET    57 = abc_203_new_n60
* NET    58 = abc_203_new_n58
* NET    59 = abc_203_new_n56
* NET    60 = abc_203_new_n55
* NET    61 = abc_203_new_n53
* NET    62 = abc_203_new_n52
* NET    63 = abc_203_new_n50
* NET    64 = abc_203_new_n48
* NET    65 = abc_203_new_n46
* NET    66 = abc_203_new_n45
* NET    67 = abc_203_new_n44
* NET    68 = abc_203_new_n42
* NET    69 = abc_203_new_n40
* NET    70 = abc_203_new_n39
* NET    71 = abc_203_new_n36
* NET    72 = abc_203_new_n35
* NET    73 = abc_203_new_n32

xfeed_0 1 0 decap_w0
xsubckt_19_nexor2_x0 1 0 63 64 8 nexor2_x0
xsubckt_13_nexor2_x0 1 0 67 68 66 nexor2_x0
xsubckt_27_nexor2_x0 1 0 58 3 2 nexor2_x0
xsubckt_30_nexor2_x0 1 0 56 15 14 nexor2_x0
xsubckt_36_nexor2_x0 1 0 52 54 51 nexor2_x0
xfeed_9 1 0 decap_w0
xfeed_8 1 0 tie
xfeed_7 1 0 decap_w0
xfeed_6 1 0 decap_w0
xfeed_5 1 0 decap_w0
xfeed_4 1 0 decap_w0
xfeed_3 1 0 decap_w0
xfeed_2 1 0 decap_w0
xfeed_1 1 0 decap_w0
xsubckt_18_xor2_x0 1 0 23 24 63 xor2_x0
xsubckt_12_nexor2_x0 1 0 26 20 67 nexor2_x0
xsubckt_1_inv_x0 1 0 73 7 inv_x0
xsubckt_21_xor2_x0 1 0 31 21 61 xor2_x0
xsubckt_35_nexor2_x0 1 0 53 60 52 nexor2_x0
xspare_feed_9 1 0 tie
xspare_feed_8 1 0 tie
xspare_feed_7 1 0 decap_w0
xspare_feed_6 1 0 tie
xspare_feed_5 1 0 tie
xspare_feed_4 1 0 decap_w0
xspare_feed_3 1 0 tie
xspare_feed_2 1 0 tie
xspare_feed_1 1 0 tie
xsubckt_20_nexor2_x0 1 0 31 21 62 nexor2_x0
xsubckt_17_inv_x0 1 0 64 16 inv_x0
xsubckt_15_inv_x0 1 0 65 11 inv_x0
xsubckt_3_xor2_x0 1 0 28 18 72 xor2_x0
xsubckt_4_nexor2_x0 1 0 72 7 71 nexor2_x0
xsubckt_5_inv_x0 1 0 71 13 inv_x0
xsubckt_9_inv_x0 1 0 69 5 inv_x0
xsubckt_26_nexor2_x0 1 0 17 31 58 nexor2_x0
xsubckt_34_xor2_x0 1 0 25 29 53 xor2_x0
xspare_feed_0 1 0 tie
xfeed_19 1 0 decap_w0
xfeed_18 1 0 decap_w0
xfeed_17 1 0 decap_w0
xfeed_16 1 0 tie
xfeed_15 1 0 decap_w0
xfeed_14 1 0 tie
xfeed_13 1 0 tie
xfeed_12 1 0 decap_w0
xfeed_11 1 0 tie
xfeed_10 1 0 tie
xsubckt_11_nexor2_x0 1 0 68 3 15 nexor2_x0
xsubckt_2_xor2_x0 1 0 18 32 3 xor2_x0
xsubckt_25_nexor2_x0 1 0 59 69 4 nexor2_x0
xsubckt_16_nexor2_x0 1 0 31 32 64 nexor2_x0
xsubckt_7_xor2_x0 1 0 24 20 70 xor2_x0
xsubckt_8_nexor2_x0 1 0 70 7 69 nexor2_x0
xsubckt_10_nexor2_x0 1 0 30 24 68 nexor2_x0
xsubckt_33_nexor2_x0 1 0 54 13 12 nexor2_x0
xfeed_22 1 0 tie
xfeed_21 1 0 decap_w0
xfeed_20 1 0 decap_w0
xsubckt_6_xor2_x0 1 0 24 32 9 xor2_x0
xsubckt_24_nexor2_x0 1 0 60 61 59 nexor2_x0
xsubckt_32_nexor2_x0 1 0 55 61 54 nexor2_x0
xspare_feed_13 1 0 decap_w0
xspare_feed_12 1 0 tie
xspare_feed_11 1 0 tie
xspare_feed_10 1 0 decap_w0
xsubckt_23_nexor2_x0 1 0 23 19 60 nexor2_x0
xsubckt_29_nexor2_x0 1 0 57 58 56 nexor2_x0
xsubckt_31_xor2_x0 1 0 27 17 55 xor2_x0
xsubckt_37_nexor2_x0 1 0 51 65 10 nexor2_x0
xspare_feed_15 1 0 tie
xspare_feed_14 1 0 tie
xsubckt_14_nexor2_x0 1 0 66 71 65 nexor2_x0
xsubckt_0_nexor2_x0 1 0 32 22 73 nexor2_x0
xsubckt_22_nexor2_x0 1 0 62 7 6 nexor2_x0
xsubckt_28_nexor2_x0 1 0 29 23 57 nexor2_x0
.ends expmob1_r
